Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Cough and fevers
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr. ___ is a ___ year old male with a prior history of renal
carcinoma s/p right partial nephrectomy, HTN, HLD who presents
for cough and fever consistent with a community acquired
pneumonia. 

He has a history of chronic reflux symptoms and says that he has
intermittent aspiration of these refluxing liquids which cause
him to have pulmonary infections. He states he has had about 3 
of
these in the past year. 

He states that he and his wife are on vacation from ___ to
___ and on ___ he developed a cough productive 
of
some clear mucous. Of note he states that he started taking some
azithromycin that he brought with him from ___ but his
symptoms were not improving. He called his PCP in ___ who
recommended he see a doctor. He then presented to the ___ clinic today where he was diagnosed via CXR and
evaluation with a bibasilar pneumonia. Based on his symptoms and
age he was referred to the ED from ___ for further
evaluation. 

Associated with the cough he says he has this ongoing reflux 
type
symptom where things well up from his stomach into his throat. 
He
also says that he had a fever of ___ at home prior to seeking
care. 

 
Past Medical History:
This PMHx is based on his report and is not as specific as a
prior medical history obtained from primary data. 
- Right renal cancer s/p partial neprhrectomy ___ years ago
- HTN 
- Cholecystectomy ~ ___ years ago 
- report of pulmonary HTN follow by pulmonologist in ___
with overall improvement in his disease after treatment 
- HLD 
- Insomnia 
- scalp melanoma s/p Mohs Surgery 
- NO prior history of MI or CVA
 
Social History:
___
Family History:
Father MIs died in ___
Mother abdominal aortic aneurysm died in ___ 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VITALS: Temp 97.8 BP 153/80 HR 70 RR ___ RA 
GENERAL: awake and alert seated at the edge of the bed in no
acute pain or distress 
HEENT: EOMI, Sclera anicteric and without injection. moist 
mucous
membranes 
NECK: No JVD.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: rhonchus breath sounds at the bases bilaterally, no
wheezes, in no respiratory distress 
BACK:No CVA tenderness.
EXTREMITIES: No edema. Pulses DP/Radial 2+ bilaterally.
SKIN: Warm. No rash. diaphoretic 
NEUROLOGIC: AOx3.

DISCHARGE PHYSICAL EXAM:
VITALS: Temp 97.3 BP 159/83 HR 72 RR ___ RA 
GENERAL: awake and alert seated at the edge of the bed in no
acute pain or distress 
HEENT: EOMI, Sclera anicteric and without injection. moist 
mucous
membranes 
NECK: No JVD.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: rhonchus breath sounds at the bases bilaterally, no
wheezes, in no respiratory distress 
BACK:No CVA tenderness.
EXTREMITIES: No edema. Pulses DP/Radial 2+ bilaterally.
SKIN: Warm. No rash. diaphoretic 
NEUROLOGIC: AOx3.

 
Pertinent Results:
LABS:
___ 09:10PM BLOOD WBC-7.0 RBC-4.88 Hgb-15.7 Hct-46.2 MCV-95 
MCH-32.2* MCHC-34.0 RDW-13.6 RDWSD-47.4* Plt ___
___ 07:01AM BLOOD WBC-5.5 RBC-4.99 Hgb-16.3 Hct-47.8 MCV-96 
MCH-32.7* MCHC-34.1 RDW-13.4 RDWSD-47.7* Plt ___
___ 09:10PM BLOOD Neuts-76.6* Lymphs-12.3* Monos-10.3 
Eos-0.1* Baso-0.1 Im ___ AbsNeut-5.38 AbsLymp-0.86* 
AbsMono-0.72 AbsEos-0.01* AbsBaso-0.01
___ 07:01AM BLOOD Neuts-62.5 ___ Monos-15.0* 
Eos-0.4* Baso-0.4 Im ___ AbsNeut-3.43 AbsLymp-1.15* 
AbsMono-0.82* AbsEos-0.02* AbsBaso-0.02
___ 07:01AM BLOOD ___ PTT-30.1 ___
___ 07:01AM BLOOD Plt ___
___ 07:01AM BLOOD Glucose-119* UreaN-20 Creat-1.0 Na-138 
K-4.0 Cl-98 HCO3-27 AnGap-13
___ 09:10PM BLOOD proBNP-958*
___ 07:01AM BLOOD Calcium-9.0 Phos-2.8 Mg-1.8
___ 09:18PM BLOOD Lactate-1.9

IMAGING:
========= 
___ Imaging CHEST (PA & LAT)
FINDINGS:  
Heart is borderline in size.  Mediastinal and hilar contours 
appear within 
normal limits.  There is no pleural effusion or pneumothorax.  
Patchy 
opacities in both lower lungs, probably for the most part 
involving lower 
lobes, suggest pneumonia.  Elsewhere upper lungs remain clear.  
Mild 
degenerative changes affect mid through lower thoracic levels. 

IMPRESSION:  
Finding suggest bilateral lower lobe pneumonia.  Follow-up 
radiographs are 
recommended show resolution within approximately 8 weeks 

 
Brief Hospital Course:
ASSESSMENT AND PLAN:
====================
Mr. ___ is a ___ year old male with a prior history of renal 
carcinoma s/p right partial nephrectomy, HTN, HLD who presents 
for cough and fever consistent with a community acquired 
pneumonia. 

ACUTE ISSUES:
=============
# Community Acquired Pneumonia:
Mr. ___ presented with fevers, cough, and bibasilar 
consolidations on chest
x ray consistent with a community acquired pneumonia. Other 
etiologies such as acute PE appear to be much less likely given 
these X ray findings despite his recent flight history. No 
history of heart failure and not fluid overloaded on exam. Did 
have significant expiratory wheezes on exam, and he is on 
budesonide/formoterol at home for COPD/asthma. He was admitted 
overnight to medicine for close observation and started on IV 
Levofloxacin before being transited to oral Levofloxacin. He was 
started on antibiotics on ___. Please continue Levofloxacin 
750mg PO for the next 5 days (last day ___. He was also 
given albuterol as needed for any episodes of shortness of 
breath. His flu swab was negative. On the day of discharge, his 
ambulatory oxygen saturation never dropped below 93%. 

# GERD:
Patient reports chronic reflux type symptoms and even a Ph test 
in ___. He was continued on ranitidine 150mg BID. 

CHRONIC ISSUES:
===============
# HTN:
He was unable to recall his dose but thinks that he takes the 
lowest dose of losartan. 

# HLD:
He was continued on atorvastatin 10mg QHS.

Transitional Issues:
====================
[ ] Levofloxacin for 5 day course (___)
[ ] Please follow up his pneumonia symptoms 
[ ] Consider repeat chest x-ray in 8 weeks 
[ ] Please repeat platelet count. 111 on discharge 
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Losartan Potassium 25 mg PO DAILY 
2. Atorvastatin 10 mg PO QPM 

 
Discharge Medications:
1.  Levofloxacin 750 mg PO Q24H 
RX *levofloxacin 750 mg 1 tablet(s) by mouth once a day Disp #*4 
Tablet Refills:*0 
2.  Atorvastatin 10 mg PO QPM  
3.  Losartan Potassium 25 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
=========
CAP

SECONDARY:
==========
GERD
HTN

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

It was a privilege caring for you at ___.  

WHY WAS I IN THE HOSPITAL?  
- You had a fever and you were having trouble breathing along 
with coughing. 

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- A chest x-ray showed what could an infection the bottom of 
both your lungs
- You were started on antibiotics for your pneumonia

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
-Please continue to take all of your medications and follow-up 
with your appointments as listed below.  

We wish you the best!  
Sincerely,  
Your ___ Team  
 
Followup Instructions:
___